US05679683
A mixture of 4-methylthiotriazolo[4,5-g]quinazoline (0.30 g, 1.38 mmol), 3-bromoaniline (2.1 mmol) and 3-bromoaniline hydrochloride (2.1 mmol) in isopropanol (400 mL) is heated under reflux for 6 h, and the solution is concentrated to give 4-(3-bromoanilino)-triazolo[4,5-g]quinazoline hydrochloride (0.33 g, 63 %). 1H NMR (DMSO) δ12.01 (1H, brs), 9.86 (1H, s), 9.02 (1H, s), 8.63 (1H, s), 8.39 (1H, s), 8.13 (1H, dd, J=1.9, 1.5 Hz), 7.85 (1H, ddd, J=7.7, 1.9, 1.5 Hz), 7.56 (1H, ddd, J=8.0, 1.7, 1.5 Hz), 7.41 (1H t, J=7.8 Hz).

reactant | 4-methylthiotriazolo[4,5-g]quinazoline | 1.38 mmol, 0.30 g | CSC1C=2C(=CC=3C=NC=NC13)N=NN2 | C9H7N5S
reactant | 3-bromoaniline | 2.1 mmol | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-bromoaniline hydrochloride | 2.1 mmol | Cl.BrC=1C=C(N)C=CC1
solvent | isopropanol | 400 mL | C(C)(C)O | C3H8O
product | 4-(3-bromoanilino)-triazolo[4,5-g]quinazoline hydrochloride | 0.33 g, 63 % | Cl.BrC=1C=C(NC2C=3C(=CC=4C=NC=NC24)N=NN3)C=CC1 | InChI=1S/C14H9BrN6.ClH/c15-9-2-1-3-10(5-9)18-14-12-8(6-16-7-17-12)4-11-13(14)20-21-19-11;/h1-7,14,18H;1H
